US07626021B2
2-Amino-5-bromo-N,N-dimethyl-benzamide (2.00 g, 8.22 mmol), di-iso-propyl ethyl amine (6.5 ml, 37.32 mmol), 4-morpholinecarbonyl chloride (4.3 ml, 37.46 mmol), and chloroform (20 ml) were combined and stirred for 18 hours at 50° C. The organic layer was washed with water, dried over sodium sulfate and concentrated in vacuo. The crude material was purified by flash chromatography (50% to 100% ethyl acetate in hexanes) to give 1.13 g (39%) of morpholine-4-carboxylic acid (4-bromo-2-dimethylcarbamoyl-phenyl)-amide. 1H-NMR (250 MHz, DMSO-d6) δ 8.67 (s, 1H), 7.56-7.45 (m, 2H), 7.42 (t, J=9.3 Hz, 4H), 3.35-3.28 (m, 4H), 2.96-2.86 (m, 6H); MS: m/z 356.0+358.1 (M+H+).

reactant | 2-Amino-5-bromo-N,N-dimethyl-benzamide | 8.22 mmol, 2.00 g | NC1=C(C(=O)N(C)C)C=C(C=C1)Br | C9H11BrN2O
reactant | di-iso-propyl ethyl amine | 37.32 mmol, 6.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-morpholinecarbonyl chloride | 37.46 mmol, 4.3 ml | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | morpholine-4-carboxylic acid (4-bromo-2-dimethylcarbamoyl-phenyl)-amide | 1.13 g, 39% | BrC1=CC(=C(C=C1)NC(=O)N1CCOCC1)C(N(C)C)=O | C14H18BrN3O3
